US05629332
A 7 g portion of 4-fluoronitrobenzene, 7 g of 1,2,4-triazole and 7.6 g of potassium carbonate were dissolved in 40 ml of N-methylpyrrolidone and stirred at 100° C. for 4 hours. After cooling to room temperature, the reaction solution was poured into water and extracted with ethyl acetate. After washing with 1N hydrochloric acid and water in that order and subsequent drying, the solvent was removed by evaporation under a reduced pressure to obtain 8 g of 4-triazolylnitrobenzene with a yield of 85%.

reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1,2,4-triazole | 7 g | N1N=CN=C1 | C2H3N3
reactant | potassium carbonate | 7.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
reactant | N-methylpyrrolidone | 40 ml | CN1C(CCC1)=O | C5H9NO
product | 4-triazolylnitrobenzene | 8 g, yield of 85% | N1N=NC(=C1)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6N4O2
